US07390925B2
Step C: (E)-tert-butyl (4-acetamido-3,5-dichlorobenzylamino)(3-hydroxy-3-(4-methoxyphenyl)propanamido)methylenecarbamate
A mixture of 3-hydroxy-3-(4-methoxyphenyl)propanoic acid (13.7 mg, 0.07 mmol), (Z)-tert-butyl (4-acetamido-3,5-dichlorobenzylamino)(amino)-methylenecarbamate (26.3 mg), PyBop (36.4 mg), and triethylamine (0.01 mL) in dichloromethane (0.35 mL) was stirred at room temperature for 12 h. The crude reaction mixture was purified directly by preparative TLC eluting with 30% ethyl acetate/70% hexanes to give the title compound as a clear sticky oil (30 mg, 77% yield). 1H NMR (400 MHz, CDCl3) δ 1.48 (m, 9 H) 2.21 (s, 3 H) 2.70 (m, 2 H) 3.78 (m, 3 H) 4.55 (m, 2 H) 4.95 (m, 1 H) 6.80-7.00 (m, 3 H) 7.24-7.38 (m, 4 H), 9.10 (m, 1 H), 12.30 (m, 1 H). HPLC retention time: 2.493 min (method A). MS (ESI) (M+H)+ 553.08.

reactant | 3-hydroxy-3-(4-methoxyphenyl)propanoic acid | 0.07 mmol, 13.7 mg | OC(CC(=O)O)C1=CC=C(C=C1)OC | C10H12O4
reactant | (Z)-tert-butyl (4-acetamido-3,5-dichlorobenzylamino)(amino)-methylenecarbamate | 26.3 mg | C(C)(=O)NC1=C(C=C(CN\C(=N/C(OC(C)(C)C)=O)\N)C=C1Cl)Cl | C15H20Cl2N4O3
reactant | PyBop | 36.4 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.01 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 0.35 mL | ClCCl | CH2Cl2
product | (E)-tert-butyl (4-acetamido-3,5-dichlorobenzylamino)(3-hydroxy-3-(4-methoxyphenyl)propanamido)methylenecarbamate | 30 mg, 77% yield | C(C)(=O)NC1=C(C=C(CN/C(/NC(CC(C2=CC=C(C=C2)OC)O)=O)=N\C(OC(C)(C)C)=O)C=C1Cl)Cl | C25H30Cl2N4O6
